US08871782B2
3-Hydroxytetrahydrofuran (0.375 mL, 4.64 mmol) was added to a suspension of 1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-7-ol (1.0 g, 3.5 mmol) and triphenylphosphine (1.5 g, 5.7 mmol) in THF. Diisopropyl azodicarboxylate (1.1 mL, 5.6 mmol) was added dropwise over a period of three minutes, and the reaction was stirred for 48 hours. The solvent was removed under reduced pressure, the residue was purified by column chromatography on silica gel (eluting with 98:2 dichloromethane:methanol) to provide 1.1 g of 1-(2-methylpropyl)-2-propyl-7-(tetrahydrofuran-3-yloxy)-1H-imidazo[4,5-c]quinoline as an off-white, crystalline solid.

reactant | 3-Hydroxytetrahydrofuran | 4.64 mmol, 0.375 mL | OC1COCC1 | C4H8O2
reactant | 1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-7-ol | 3.5 mmol, 1.0 g | CC(CN1C(=NC=2C=NC=3C=C(C=CC3C21)O)CCC)C | C17H21N3O
reactant | triphenylphosphine | 5.7 mmol, 1.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 5.6 mmol, 1.1 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | C1CCOC1 | C4H8O
product | 1-(2-methylpropyl)-2-propyl-7-(tetrahydrofuran-3-yloxy)-1H-imidazo[4,5-c]quinoline | 1.1 g | CC(CN1C(=NC=2C=NC=3C=C(C=CC3C21)OC2COCC2)CCC)C | C21H27N3O2
